US08859580B2
2-(3-Methoxy-benzyl)-3,3-dimethyl-4-methylene-piperidine-1-carbaldehyde (for preparation see J. Med. Chem. 1997, 40, 2928-2939; 47.5 g) is combined with 48% HBr in water (300 mL). The mixture is heated to reflux temperature and stirred at this temperature for 24 h. After cooling to ambient temperature, the precipitate is separated by filtration, washed with water, and triturated with acetone. Then, the precipitate is taken up in a mixture of 1 N aqueous NaOH solution and CH2Cl2. The CH2Cl2 phase is separated, dried (Na2SO4), and concentrated. The residue is recrystallized from EtOAc to afford 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ol. The filtrate of the reaction mixture is combined with the water and acetone phases (from washing and triturating the precipitate) and basified using concentrated aqueous ammonia solution. The resulting mixture is extracted with CH2Cl2, the combined organic extracts are dried (MgSO4), and the solvent is evaporated. The residue is purified by chromatography on silica gel (EtOAc/MeOH/NH4OH 90:10:1->70:30:3) to afford 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-7-ol and 3,3,4-trimethyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ol separated.

reactant | 2-(3-Methoxy-benzyl)-3,3-dimethyl-4-methylene-piperidine-1-carbaldehyde | 47.5 g | COC=1C=C(CC2N(CCC(C2(C)C)=C)C=O)C=CC1 | C17H23NO2
reactant | HBr | Br | BrH
solvent | water | 300 mL | O | H2O
product | 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ol | CC12C3=C(CC(NCC1)C2(C)C)C=C(C=C3)O | C15H21NO
